US06806395B2
Synthesis of 3,5-bis(1-ethylpropyl)phenol
The procedure (including reaction and treatment) of Example 2 was repeated, except that 5-benzyloxy-α,α,α′,α′tetramethyl-1,3-benzenedimethanol was replaced by 5-benzyloxy-α,α,α′,α′-tetraethyl-1,3-benzenedimethanol, to thereby yield the above-described target as colorless needles.

reactant | 5-benzyloxy-α,α,α′,α′tetramethyl-1,3-benzenedimethanol | C(C1=CC=CC=C1)OC=1C=C(C=C(C1)C(O)(C)C)C(O)(C)C | C19H24O3
reactant | 5-benzyloxy-α,α,α′,α′-tetraethyl-1,3-benzenedimethanol | C(C1=CC=CC=C1)OC=1C=C(C=C(C1)C(O)(CC)CC)C(O)(CC)CC | C23H32O3
product | 3,5-bis(1-ethylpropyl)phenol | C(C)C(CC)C=1C=C(C=C(C1)C(CC)CC)O | C16H26O
